*$
* INA115
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA115
* Date: 28OCT2022
* Model Type: ALL IN ONE
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS021
*
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Final 1.1
* Updated PSpice symbol.
* Added Unique SUBCKT name.
*
* Final 1.0: 
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
* 1. Model file is updated with latest header.
* 2. The output performance of the macro model will be erroneous if
*    node 12 (feedback) is not connected properly.  this is generally
*    connected to node 11 (output).
*****************************************************************************
***** INA115 SUB-CIRCUIT
* CONNECTIONS:    NON-INVERTING INPUT
*                 |   INVERTING INPUT
*                 |   |   POSITIVE POWER SUPPLY
*                 |   |   |   NEGATIVE POWER SUPPLY
*                 |   |   |   |   OUTPUT
*                 |   |   |   |   |   FEEDBACK
*                 |   |   |   |   |   |    REFERENCE
*                 |   |   |   |   |   |    |   GAIN SET 1
*                 |   |   |   |   |   |    |   |   GAIN SET 2
*                 |   |   |   |   |   |    |   |   |   GAIN SENSE 1
*                 |   |   |   |   |   |    |   |   |   |   GAIN SENSE 2
*                 |   |   |   |   |   |    |   |   |   |   |
.SUBCKT INA115    5   4   13  7   11  12   10  3   14  2   15
*****************************************************************************
***** A1_115E SUBCIRCUIT
* CONNECTIONS:    NON-INVERTING INPUT
*                 |   INVERTING INPUT
*                 |   |   POSITIVE POWER SUPPLY
*                 |   |   |   NEGATIVE POWER SUPPLY
*                 |   |   |   |   OUTPUT
*                 |   |   |   |   |
X1                4   2   13  7   1   A1_115E
*
* CONNECTIONS:    NON-INVERTING INPUT
*                 |   INVERTING INPUT
*                 |   |   POSITIVE POWER SUPPLY
*                 |   |   |   NEGATIVE POWER SUPPLY
*                 |   |   |   |   OUTPUT
*                 |   |   |   |   |
X2                5   15  13  7   8   A1_115E
*
* CONNECTIONS:    NON-INVERTING INPUT
*                 |   INVERTING INPUT
*                 |   |   POSITIVE POWER SUPPLY
*                 |   |   |   NEGATIVE POWER SUPPLY
*                 |   |   |   |   OUTPUT
*                 |   |   |   |   |
X3                17  18  13  7   11   A3_115E
*
RFB1 1 3 25K
RFB2 8 14 25K
R1 1 18 25K
R2 18 12 24.9985K
R3 8 17 25K
R4 17 10 25K
C1 17 10 5P
C2 18 12 5P
CC1 1 3 5P
CC2 8 14 5P
.ENDS INA115
*
* A1_115E OPERATIONAL AMPLIFIER " MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 5.0 ON 1/22/92 AT 13:21
*
* CONNECTIONS:   NON-INVERTING INPUT
*                |   INVERTING INPUT
*                |   |   POSITIVE POWER SUPPLY
*                |   |   |   NEGATIVE POWER SUPPLY
*                |   |   |   |   OUTPUT
*                |   |   |   |   |
.SUBCKT A1_115E  1   2   3   4   5
*
C1 11 12 6.060E-12
C2 6 7 30.00E-12
DC 5 53 DX
DE 54 5 DX
DLP 90 91 DX
DLN 92 90 DX
DP 4 3 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 165.8E6 -20E6 20E6 20E6 -20E6
GA 6 0 11 12 188.5E-6
GCM 0 6 10 99 188.5E-12
IEE 10 4 DC 27E-6
HLIM 90 0 VLIM 1K
Q1 11 2 13 QX
Q2 12 1 14 QX
R2 6 9 100.0E3
RC1 3 11 5.305E3
RC2 3 12 5.305E3
RE1 13 10 4.348E3
RE2 14 10 4.348E3
REE 10 99 7.4074E6
RO1 8 5 40
RO2 7 99 320
VB 9 0 DC 0
VC 3 53 DC 1.672
VE 54 4 DC 1.672
VLIM 7 8 DC 0
VLP 91 0 DC 2
VLN 0 92 DC 2
****************************
* A1_115E "E" - ENHANCEMENTS
****************************
* OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0
FQ1 3 0 POLY(1) VQ1 0 1
FQ2 0 4 POLY(1) VQ2 0 -1
* QUIESCIENT CURRENT
RQ 3 4 52.53E3
* DIFF INPUT CAPACITANCE
CDIF 1 2 3E-12
* COMMON MODE INPUT CAPACITANCE
C1CM 1 0 3E-12
C2CM 2 0 3E-12
* INPUT PROTECTION
VS11 3 31 0
FS11 0 3 VS11 1
S11 31 0 1 0 SP
FS12 1 4 VS11 1
VS21 32 4 0
FS21 4 0 VS21 1
S21 0 32 1 0 SM
FS22 3 1 VS21 1
****************************
.MODEL DX D(IS=800.0E-18)
.MODEL QX NPN(IS=800.0E-18 BF=36.00E3 NC=100 NR=100)
.MODEL SP VSWITCH(RON=10K ROFF=100G VON=15.6 VOFF=15.5)
.MODEL SM VSWITCH(RON=10K ROFF=100G VON=-15.6 VOFF=-15.5)
.ENDS A1_115E
*
*
* A3_115E OPERATIONAL AMPLIFIER " MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 5.0 ON 1/22/92 AT 13:46
*
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT A3_115E  1 2 3 4 5
*
C1 11 12 13.51E-12
C2 6 7 30.00E-12
DC 5 53 DX
DE 54 5 DX
DLP 90 91 DX
DLN 92 90 DX
DP 4 3 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 251.9E6 -30E6 30E6 30E6 -30E6
GA 6 0 11 12 339.3E-6
GCM 0 6 10 99 339.3E-12
IEE 10 4 DC 18E-6
HLIM 90 0 VLIM 1K
Q1 11 2 13 QX
Q2 12 1 14 QX
R2 6 9 100.0E3
RC1 3 11 2.947E3
RC2 3 12 2.947E3
RE1 13 10 74.778
RE2 14 10 74.778
REE 10 99 11.111E6
RO1 8 5 13
RO2 7 99 117
VB 9 0 DC 0
VC 3 53 DC 1.972
VE 54 4 DC 1.972
VLIM 7 8 DC 0
VLP 91 0 DC 12
VLN 0 92 DC 12
****************************
* A3_115E "E" - ENHANCEMENTS
****************************
* OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0
FQ1 3 0 POLY(1) VQ1 0 1
FQ2 0 4 POLY(1) VQ2 0 -1
* QUIESCIENT CURRENT
RQ 3 4 30.123E3
* DIFF INPUT CAPACITANCE
CDIF 1 2 10E-12
* COMMON MODE INPUT CAPACITANCE
C1CM 1 0 5E-12
C2CM 2 0 5E-12
****************************
.MODEL DX D(IS=800.0E-18)
.MODEL QX NPN(IS=800.0E-18 BF=30.00E3)
.ENDS A3_115E
