*$
* INA121
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA121
* Date: 25JAN2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS078
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* Updated PSpice symbol
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* CONNECTIONS:          NON-INVERTING INPUT
*                        |  INVERTING INPUT
*                        |   |  POSITIVE POWER SUPPLY
*                        |   |   |  NEGATIVE POWER SUPPLY
*                        |   |   |   |  OUTPUT
*                        |   |   |   |   |  REFERENCE
*                        |   |   |   |   |   |  GAIN SENSE 1
*                        |   |   |   |   |   |   |  GAIN SENSE 2
*                        |   |   |   |   |   |   |   |
* PIN CONFIG FOR INA121  1   2   3   4   5   8   9  10
*****************************************************************************
.SUBCKT INA121 1 2 3 4 5 8 9 10
*****************************************************************************
* Models
.MODEL DX D (IS=1.0E-24)
.MODEL JX PJF (IS=1E-12 BETA=750.0E-6 VTO=-1)
.MODEL JY PJF (IS=800.0E-18 VTO=-1.2 BETA=10U LAMBDA=13M)
.MODEL JZ PJF (IS=800.0E-18 VTO=-1.2 BETA=1U LAMBDA=13M)
.MODEL QX NPN (IS=800.0E-18 BF=500)
*****************************************************************************
* Components
C4 14 8 .50000E-12
CC1 17 11 11.00E-12
CC2 16 12 11.00E-12
CG1 9 0 11.500E-12
CG2 10 0 10.000E-12
CIN 13 14 4PF
D1 17 15 DX
D1N 33 3 DX
D1P 31 3 DX
D2 16 15 DX
D2N 4 33 DX
D2P 4 31 DX
D12 15 17 DX
D22 15 16 DX
G11 31 4 POLY(2) (21,1) (4,1) 28E-12 3E-12 4.2E-12
G21 33 4 POLY(2) (22,2) (4,2) 28E-12 3E-12 4.2E-12
I1 3 16 DC 10.00E-6
I2 3 17 DC 10.00E-6
I3 10 4 DC 10.00E-6
I4 9 4 DC 10.00E-6
I5 3 21 DC 30.00E-6
I6 3 22 DC 30.00E-6
J1 4 31 21 JX
J1N 33 34 35 JY 15X
J1P 31 32 30 JY 15X
J2 4 33 22 JX
J2N 34 34 35 JZ 1X
J2P 32 32 30 JZ 1X
Q1 16 21 10 QX
Q2 17 22 9 QX
R1 11 13 40.0000E3
R1FB 9 11 25.0000E3
R2 13 5 39.996E3
R2FB 10 12 25.0000E3
R3 12 14 40.0000E3
R4 14 8 40.0000E3
RCE 17 9 500E6
RINN 2 35 10
RINP 1 30 10
V1 3 15 DC 1.000
X1 15 17 3 4 11 A1_INA121
X2 15 16 3 4 12 A2_INA121
X3 14 13 3 4 5 A3_INA121
.ENDS INA121
*
*****************************************************************************
.SUBCKT A1_INA121 1 2 3 4 5
*****************************************************************************
* Models
.MODEL DX D (IS=800.00E-18)
.MODEL DY D (IS=800.00E-18 RS=1M CJO=10P)
.MODEL JX1 PJF (IS=1.5000E-12 BETA=.13159 VTO=-1)
.MODEL JX2 PJF (IS=1.5000E-12 BETA=.13159 VTO=-1)
*****************************************************************************
* Components
C1 11 12 2.8868E-12
C2 6 7 10.000E-12
CSS 10 99 1.0000E-30
DC 5 53 DY
DE 54 5 DY
DLN 92 90 DX
DLP 90 91 DX
DP 4 3 DX
DQ1 20 21 DX
DQ2 22 20 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 17.684E6 -1E3 1E3 18E6 -18E6
FQ1 3 0 POLY(1) VQ1 70U 1
FQ2 0 4 POLY(1) VQ2 70U -1
FQ3 0 20 POLY(1) VLIM 0 1
GA 6 0 11 12 1.2566E-3
GCM 0 6 10 99 12.566E-9
HLIM 90 0 VLIM 1K
ISS 3 10 DC 12.000E-6
J1 11 2 10 JX1
J2 12 1 10 JX2
R2 6 9 100.00E3
RD1 4 11 795.77
RD2 4 12 795.77
RO1 8 5 1
RO2 7 99 9
RP 3 4 3E6
RSS 10 99 16.667E6
VB 9 0 DC 0
VC 3 53 DC 1.6621
VE 54 4 DC 1.0621
VLIM 7 8 DC 0
VLN 0 92 DC 5
VLP 91 0 DC 5
VQ1 21 0 0
VQ2 22 0 0
.ENDS A1_INA121
*
*****************************************************************************
.SUBCKT A2_INA121 1 2 3 4 5
*****************************************************************************
* Models
.MODEL DX D (IS=800.00E-18)
.MODEL DY D (IS=800.00E-18 RS=1M CJO=10P)
.MODEL JX1 PJF (IS=1.5000E-12 BETA=.13159 VTO=-1)
.MODEL JX2 PJF (IS=1.5000E-12 BETA=.13159 VTO=-1)
*****************************************************************************
* Components
C1 11 12 2.8868E-12
C2 6 7 10.000E-12
CSS 10 99 1.0000E-30
DC 5 53 DY
DE 54 5 DY
DLN 92 90 DX
DLP 90 91 DX
DP 4 3 DX
DQ1 20 21 DX
DQ2 22 20 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 17.684E6 -1E3 1E3 18E6 -18E6
FQ1 3 0 POLY(1) VQ1 70U 1
FQ2 0 4 POLY(1) VQ2 70U -1
FQ3 0 20 POLY(1) VLIM 0 1
GA 6 0 11 12 1.2566E-3
GCM 0 6 10 99 12.566E-9
HLIM 90 0 VLIM 1K
ISS 3 10 DC 12.000E-6
J1 11 2 10 JX1
J2 12 1 10 JX2
R2 6 9 100.00E3
RD1 4 11 795.77
RD2 4 12 795.77
RO1 8 5 1
RO2 7 99 9
RP 3 4 3E6
RSS 10 99 16.667E6
VB 9 0 DC 0
VC 3 53 DC 1.6621
VE 54 4 DC 1.0621
VLIM 7 8 DC 0
VLN 0 92 DC 5
VLP 91 0 DC 5
VQ1 21 0 0
VQ2 22 0 0
.ENDS A2_INA121
*
*****************************************************************************
.SUBCKT A3_INA121 1 2 3 4 5
*****************************************************************************
* Models
.MODEL DX D (IS=800.00E-18)
.MODEL DY D (IS=800.00E-18 RS=1M CJO=10P)
.MODEL QX1 PNP (IS=800.00E-18 BF=187.50)
.MODEL QX2 PNP (IS=800.00E-18 BF=187.50)
*****************************************************************************
* Components
C1 11 12 1.6246E-12
C2 6 7 10.000E-12
CEE 10 99 714.29E-15
DC 5 53 DY
DE 54 5 DY
DLN 92 90 DX
DLP 90 91 DX
DP 4 3 DX
DQ1 20 21 DX
DQ2 22 20 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 1.3263E9 -1E3 1E3 1E9 -1E9
FQ1 3 0 POLY(1) VQ1 150U 1
FQ2 0 4 POLY(1) VQ2 150U -1
FQ3 0 20 POLY(1) VLIM 0 1
GA 6 0 11 12 50.265E-6
GCM 0 6 10 99 502.65E-12
HLIM 90 0 VLIM 1K
IEE 3 10 DC 7.5400E-6
Q1 11 2 13 QX1
Q2 12 1 14 QX2
R2 6 9 100.00E3
RC1 4 11 19.894E3
RC2 4 12 19.894E3
RE1 13 10 12.928E3
RE2 14 10 12.928E3
REE 10 99 26.525E6
RO1 8 5 1
RO2 7 99 9
RP 3 4 3E6
VB 9 0 DC 0
VC 3 53 DC 1.6905
VE 54 4 DC 1.0905
VLIM 7 8 DC 0
VLN 0 92 DC 15
VLP 91 0 DC 15
VQ1 21 0 0
VQ2 22 0 0
.ENDS A3_INA121
*
